* C:\Users\lorne\Documents\3rd Year Dal\ECED3201\Labs\lab2\ltspice\Lab2Part1.asc
V1 N001 0 12V
I1 N001 V_d 10m
D1 V_d 0 1N4148
.model D D
.lib C:\Users\lorne\AppData\Local\LTspice\lib\cmp\standard.dio
.step temp 0 20 1
.op
* .tran 10m
.backanno
.end
