* C:\School Work\ECED3201\lab2\ltspice\Lab2Part4Q9.asc
V1 VDD 0 15
V2 0 VSS 15
XU1 VIN VOUT VDD VSS N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D1 N002 VOUT 1N4148
R1 0 VOUT 10k
XU2 VIN VOUT2 VDD VSS N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 VOUT2 N003 1N4148
R2 VOUT2 N001 10k
XU3 VOUT N001 VDD VSS VOUT3 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R3 N001 VOUT3 10k
V3 VIN 0 SINE(0 2 60)
.model D D
.lib C:\Users\Ashton Dudley\AppData\Local\LTspice\lib\cmp\standard.dio
* .tran 60m
.dc V3 -1 1 0.1
.lib UniversalOpAmp2.lib
.backanno
.end
