* C:\School Work\ECED3201\ltspice\lab1part2.asc
V1 Vin 0 SINE(0 10 200)
R1 V_L 0 330
D1 Vin V_L 1N4148
R2 N001 0 200
D2 Vin N001 1N5817
C1 V_L 0 1µF
.model D D
.lib C:\Users\ashto\AppData\Local\LTspice\lib\cmp\standard.dio
* .dc V1 -5 5
.tran 20m
.backanno
.end
