* C:\School Work\ECED3201\ltspice\lab1part4.asc
V1 Vin 0
R2 Vout Vin 470
R3 N001 0 200
D2 0 Vout BZX84C6V2L
C1 NC_01 NC_02 1µF
R1 Vout 0 1k
.model D D
.lib C:\Users\ashto\AppData\Local\LTspice\lib\cmp\standard.dio
.dc V1 0 12 0.1
* .tran 0 100m 80m
* .step param R_L list 1k 10k
.backanno
.end
