* C:\School Work\ECED3201\ltspice\lab4part2.asc
Q1 N002 N004 N005 0 2N2222
R_C N001 N002 3k
R_E N005 0 1.5k
V1 N001 0 12
R1 N001 N004 41.5k
R2 N004 0 18.5k
R N003 VIN 2k
C1 N004 N003 22µF
C2 VOUT N002 22µF
V2 VIN 0 SINE(0 {V_AMP} 10khz)
RL VOUT 0 3k
C3 0 N005 {C_BYPASS}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ashto\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50ms 49.5ms
* .ac dec 10 1 10khz
.param V_AMP=40m
* .step param V_AMP 1mV 100mV 20mV
.param C_BYPASS=100uF
* .step dec param C_BYPASS 1nF 100uF 10
.backanno
.end
